US07709483B2
(a) 2-Chloro-N-(3-fluoro-2-methylphenyl)acetamide
A solution of chloroacetyl chloride (38.4 ml, 480 mmol) in ethyl acetate (100 ml) was slowly added to a vigorously-stirred mixture of 3-fluoro-2-methylaniline (60 g, 480 mmol), saturated aqueous sodium bicarbonate (400 ml), ice (ca 100 g) and ethyl acetate (400 ml). Some solid formed then dissolved. After 1 hour the mixture was evaporated to removing the ethyl acetate) and filtered, washing with water. The resulting product was dried in vacuo (94.4 g, 98%).

reactant | chloroacetyl chloride | 480 mmol, 38.4 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 3-fluoro-2-methylaniline | 480 mmol, 60 g | FC=1C(=C(N)C=CC1)C | C7H8FN
reactant | sodium bicarbonate | 400 ml | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-N-(3-fluoro-2-methylphenyl)acetamide | ClCC(=O)NC1=C(C(=CC=C1)F)C | C9H9ClFNO
